US05021483
N,N,N',N',N",N"-Hexakis(1-methoxy-2,2,6,6-tetramethylpiperidin-4-yl)-1,3,5-triazine-2,4,6-tricarboxamide
The title compound is prepared by the reaction of triethyl 1,3,5-triazine-2,4,6-tricarboxylate and bis(1-methoxy-2,2,6,6-tetramethylpiperidin-4-yl)amine.

reactant | triethyl 1,3,5-triazine-2,4,6-tricarboxylate | N1=C(N=C(N=C1C(=O)OCC)C(=O)OCC)C(=O)OCC | C12H15N3O6
reactant | bis(1-methoxy-2,2,6,6-tetramethylpiperidin-4-yl)amine | CON1C(CC(CC1(C)C)NC1CC(N(C(C1)(C)C)OC)(C)C)(C)C | C20H41N3O2
product | N,N,N',N',N",N"-Hexakis(1-methoxy-2,2,6,6-tetramethylpiperidin-4-yl)-1,3,5-triazine-2,4,6-tricarboxamide | CON1C(CC(CC1(C)C)N(C(=O)C1=NC(=NC(=N1)C(=O)N(C1CC(N(C(C1)(C)C)OC)(C)C)C1CC(N(C(C1)(C)C)OC)(C)C)C(=O)N(C1CC(N(C(C1)(C)C)OC)(C)C)C1CC(N(C(C1)(C)C)OC)(C)C)C1CC(N(C(C1)(C)C)OC)(C)C)(C)C | C66H120N12O9
